US07842688B2
a) tert-Butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-[2-(3-methoxypropyl)-1H-benzoimidazol-4-ylmethoxy]piperidine-1-carboxylate
Analogously to Example 228a, 0.5 g of tert-butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-[2-(3-methoxypropyl)-1-(2-trimethylsilanylethoxymethyl)-1H-benzoimidazol-4-ylmethoxy]piperidine-1-carboxylate and 5.44 ml of tetrabutylammonium fluoride solution (1M in tetrahydrofuran) are reacted. The title compound is obtained as a yellowish oil. Rf=0.40 (1:1 EtOAc-heptane); Rt=4.99.

reactant | tert-butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-[2-(3-methoxypropyl)-1-(2-trimethylsilanylethoxymethyl)-1H-benzoimidazol-4-ylmethoxy]piperidine-1-carboxylate | 0.5 g | COC1=C(COCCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OC(C)(C)C)OCC2=CC=CC=3N(C(=NC32)CCCOC)COCC[Si](C)(C)C)C=CC=C1 | C45H65N3O8Si
reactant | tetrabutylammonium fluoride | 1M, 5.44 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | tert-Butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-[2-(3-methoxypropyl)-1H-benzoimidazol-4-ylmethoxy]piperidine-1-carboxylate | COC1=C(COCCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OC(C)(C)C)OCC2=CC=CC=3NC(=NC32)CCCOC)C=CC=C1 | C39H51N3O7
